US05863947
A stirred mixture of 4-cyano-2-vinylbenzaldehyde (0.24 g, 1.53 mmol), potassium cyanide (0.2 g, 3.06 mmol) and ammonium carbonate (0.59 g, 6.12 mmol) in ethanol-water (1:1, 6 ml) was heated to 85° C. for 17 hours following the procedure described in Example 1 part (ii). The crude solid obtained after extraction was chromatographed on flash silica eluting with ethyl acetate-hexane (4:1) to give 5-(4-cyano-2-vinylphenyl)hydantoin as a gum.

reactant | 4-cyano-2-vinylbenzaldehyde | 1.53 mmol, 0.24 g | C(#N)C1=CC(=C(C=O)C=C1)C=C | C10H7NO
reactant | potassium cyanide | 3.06 mmol, 0.2 g | [C-]#N.[K+]
reactant | ammonium carbonate | 6.12 mmol, 0.59 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ethanol water | 6 ml | C(C)O.O
product | 5-(4-cyano-2-vinylphenyl)hydantoin | C(#N)C1=CC(=C(C=C1)C1C(NC(N1)=O)=O)C=C | C12H9N3O2
